US04141899
4-Ethyl-5-(N-isopropyl-guanyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (386/1337)
Operating as in Example 22, but employing N-isopropyl-S-methyl-isothiourea, 1.6 g of 4-ethyl-5-(N-isopropyl-guanyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine monohydrobromide (m.p. 280° (dec.)) are obtained.

reactant | N-isopropyl-S-methyl-isothiourea | C(C)(C)NC(SC)=N | C5H12N2S
reactant | 4-ethyl-5-(N-isopropyl-guanyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine monohydrobromide | 1.6 g | Br.C(C)C1N(CCC2=C1N=CN2)C(NC(C)C)=N
product | 4-Ethyl-5-(N-isopropyl-guanyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | C(C)C1N(CCC2=C1N=CN2)C(NC(C)C)=N | C12H21N5
